US08604065B2
1e. 4-amino-2-trifluoromethoxyphenol
223 mg (1.0 mmol) of 4-nitro-2-trifluoromethoxyphenol, 224 mg (4.0 mmol) of reduced iron powder, and 321 mg (6.0 mmol) of ammonia chloride were successively added to a mixture of 20 mL of ethanol and 6.0 mL of water under argon atmosphere with mechanical stirring. The mixture was slowly heated to 50° C. and allowed to react at this temperature for 1.5 h until the solution turned brown. The reaction was stopped, naturally cooled, filtered under reduced pressure, and the filter cake was washed with 10 mL of ethyl acetate. 20 mL of water and 20 mL of ethyl acetate were added to the filtrate. The organic layer was isolated, and the water layer was extracted with 20 mL×2 of ethyl acetate. The organic layers were combined, successively washed with 50 mL of water and 50 mL of saturated saline, dried over anh. MgSO4, filtered and concentrated to obtain 144 mg of a dark red solid. Yield 74.4%.

reactant | 4-nitro-2-trifluoromethoxyphenol | 1.0 mmol, 223 mg | [N+](=O)([O-])C1=CC(=C(C=C1)O)OC(F)(F)F | C7H4F3NO4
reactant | ammonia chloride | 6.0 mmol, 321 mg | [Cl-].N
reactant | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 6.0 mL | O | H2O
product | 4-amino-2-trifluoromethoxyphenol | 144 mg, Yield 74.4% | NC1=CC(=C(C=C1)O)OC(F)(F)F | C7H6F3NO2
